US07396849B2
Quinolin-5-yl-(1-trityl-1H-imidazol-4-yl)-methanone (Intermediate G1) in acetic acid:water (˜2:1) was heated to 100° C. for 1 h. The mixture was basified with 1 M NaOH and extracted (6×) with CHCl3:iPrOH (3:1). The organic solution was dried over MgSO4, filtered, and concentrated onto silica gel. The material was eluted from a column of silica with 5% NH3-MeOH:CH2Cl2 to give (1H-imidazol-4-yl)-quinolin-5-yl-methanone (Intermediate G2).

reactant | Quinolin-5-yl-(1-trityl-1H-imidazol-4-yl)-methanone | N1=CC=CC2=C(C=CC=C12)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H23N3O
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | acetic acid water | C(C)(=O)O.O
product | (1H-imidazol-4-yl)-quinolin-5-yl-methanone | N1C=NC(=C1)C(=O)C1=C2C=CC=NC2=CC=C1 | C13H9N3O
